US09056859B2
A solution of 6-methylpyridin-2-amine (10.80 g, 100 mmol) in 50 mL of dry DMF was added a solution of NCS (13.4 g, 100 mmol) in 60 mL of dry DMF dropwise at 0° C. over 20 min. The resulting brown yellow solution was stirred at 0° C. for 1 hour, and at room temperature for 3 hours, then poured to 300 mL of ice-water. The resulting mixture was extracted with EtOAc, washed with water and brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified via column chromatograph to afford 5-chloro-6-methylpyridin-2-amine.

reactant | 6-methylpyridin-2-amine | 100 mmol, 10.80 g | CC1=CC=CC(=N1)N | C6H8N2
reactant | NCS | 100 mmol, 13.4 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-chloro-6-methylpyridin-2-amine | ClC=1C=CC(=NC1C)N | C6H7ClN2
